US04002647
A solution of 43 g. of 6-ethoxy-6-methyl-2-heptanone in 100 ml. of absolute diethyl ether is slowly added dropwise with ice cooling to a suspension of 4.5 g. of lithium aluminum hydride in 400 ml. of absolute diethyl ether. The mixture is subsequently stirred for a further one hour at ca. 5° C. and then hydrolyzed by the cautious addition of a dilute aqueous ammonium chloride solution. The mixture is filtered through diatomaceous earth and the organic phase washed with saturated sodium chloride solution, dried over sodium sulfate and evaporated under reduced pressure. By distillation there is obtained pure 6-ethoxy-6-methyl-2-heptanol of boiling point 100° C./10 mmHg; nD20 = 1.4372.

reactant | 6-ethoxy-6-methyl-2-heptanone | C(C)OC(CCCC(C)=O)(C)C | C10H20O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-ethoxy-6-methyl-2-heptanol | C(C)OC(CCCC(C)O)(C)C | C10H22O2
